US04435406
To 18.8 g of 2,2-dimethyl-1,3-benzodioxole-5,6-diamine dihydrochloride in 250 ml of isopropanol were added first a solution of 8.6 g of potassium hydroxide in 25 ml of water and then 13.7 g of potassium ethylxanthate, and the mixture was left to boil at reflux overnight. The mixture was diluted with 250 ml of water, neutralized with glacial acetic acid and suction filtered. There were obtained 12.9 g (78.2% of theory) of 2,2-dimethyl-5H-1,3-dioxolo(4,5-f)benzimidazole-6-thiol with a melting point above 300° C.

reactant | 2,2-dimethyl-1,3-benzodioxole-5,6-diamine dihydrochloride | 18.8 g | Cl.Cl.CC1(OC2=C(O1)C=C(C(=C2)N)N)C
reactant | potassium hydroxide | 8.6 g | [OH-].[K+]
reactant | potassium ethylxanthate | 13.7 g | C(C)OC(=S)[S-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | isopropanol | 250 ml | C(C)(C)O | C3H8O
solvent | water | 25 ml | O | H2O
solvent | water | 250 ml | O | H2O
product | 2,2-dimethyl-5H-1,3-dioxolo(4,5-f)benzimidazole-6-thiol | 12.9 g, 78.2% | CC1(OC=2C(=CC3=C(N=C(N3)S)C2)O1)C | C10H10N2O2S
